US04227000
A mixture of 2-methoxy-4-cyanopyridine (57.2 g), semicarbazide hydrochloride (71.24 g), sodium acetate (69.86 g), ethanol (1200 ml) and water (370 ml) was hydrogenated at 344 kPa using Raney nickel catalyst (1.0 g). The mixture was evaporated to a volume of 450 ml, water (900 ml) was added and the mixture was allowed to stand at 0° overnight. The mixture was filtered and the solid residue was washed with water and then dissolved in 10% hydrochloric acid (950 ml). Formaldehyde solution (36% w/v, 420 ml) was added and the mixture was warmed for 30 minutes, allowed to cool and added to a solution of sodium acetate (290 g) in water (840 ml). The mixture was extracted with ether and the combined extracts were successively washed with aqueous potassium carbonate and water and were dried and evaporated to give 2-methoxypyridine-4-carboxaldehyde (20.53 g, 35%), m.p. 33°-35°. A sample recrystallised from light petroleum had m.p. 33°-36°.

reactant | 2-methoxy-4-cyanopyridine | 57.2 g | COC1=NC=CC(=C1)C#N | C7H6N2O
reactant | semicarbazide hydrochloride | 71.24 g | Cl.NNC(=O)N
reactant | sodium acetate | 69.86 g | C(C)(=O)[O-].[Na+]
reactant | ethanol | 1200 ml | C(C)O | C2H6O
catalyst | Raney nickel | 1.0 g | [Ni] | Ni
solvent | water | 370 ml | O | H2O
product | 2-methoxypyridine-4-carboxaldehyde | 20.53 g, 35% | COC1=NC=CC(=C1)C=O | C7H7NO2
